US08669361B2
A solution of 1-methyl-4-nitro-5-((tetrahydro-2H-pyran-4-yl)methoxy)-1H-pyrazole (0.143 g, 0.59 mmol) in MeOH (15 mL) was passed through the H-Cube® (70 bar, 60° C., flow rate: 1 mL/min, 30 mm 10% Pd/C cartridge). The solvent was removed under reduced pressure to afford the crude amine as a brown oil (0.115 g, 0.54 mmol). To a solution of this amine in DCM (8 mL) was added 5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)thiazole-4-carboxylic acid (0.206 g, 0.58 mmol), HATU (0.615 g, 1.62 mmol) and DIPEA (0.66 mL, 3.78 mmol). The mixture was stirred at room temperature for 18 hr. Water (30 ml) was added and stirring continued for 15 min. The layers were separated and the aqueous extracted with DCM. The combined organics were passed through a phase separation cartridge and the solvent removed under reduced pressure. Purification of the residue via silica gel column chromatography (0-100% EtOAc/isohexane) gave tert-butyl 2-(2,6-difluorophenyl)-4-(1-methyl-5-((tetrahydro-2H-pyran-4-yl)methoxy)-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate as a yellow solid (0.22 g, 69%). This solid (0.129 g, 0.25 mmol) was stirred in HCl in 1,4-dioxane (4.0 M, 4 mL) at room temperature for 18 hr. The solvents were removed under reduced pressure and the crude residue was re-dissolved in MeOH and loaded onto an SCX column. The column was washed with MeOH and 0.3 M ammonia in MeOH to yield a coloured foam. Further purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave 230 as a white solid (70 mg, 67%). 1H NMR (400 MHz, CDCl3) δ 8.26 (s, 1H), 7.62 (s, 1H), 7.37-7.28 (m, 1H), 7.07-6.97 (m, 2H), 6.15 (s, 2H), 4.02 (d, J=6.5 Hz, 2H), 3.96 (dd, J=11.5, 4.5 Hz, 2H), 3.69 (s, 3H), 3.43-3.35 (m, 2H), 2.11-1.98 (m, 1H), 1.75-1.69 (m, 2H), 1.51-1.38 (m, 2H). LCMS (ES+) m/z 450 (M+1)

reactant | 1-methyl-4-nitro-5-((tetrahydro-2H-pyran-4-yl)methoxy)-1H-pyrazole | 0.59 mmol, 0.143 g | CN1N=CC(=C1OCC1CCOCC1)[N+](=O)[O-] | C10H15N3O4
reactant | 5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)thiazole-4-carboxylic acid | 0.58 mmol, 0.206 g | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)C1=C(C=CC=C1F)F)C(=O)O | C15H14F2N2O4S
reactant | HATU | 1.62 mmol, 0.615 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 3.78 mmol, 0.66 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeOH | 15 mL | CO | CH4O
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | [Pd] | Pd
solvent | Water | 30 ml | O | H2O
product | tert-butyl 2-(2,6-difluorophenyl)-4-(1-methyl-5-((tetrahydro-2H-pyran-4-yl)methoxy)-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate | 0.22 g, 69% | FC1=C(C(=CC=C1)F)C=1SC(=C(N1)C(NC=1C=NN(C1OCC1CCOCC1)C)=O)NC(OC(C)(C)C)=O | C25H29F2N5O5S
